US05254558
To a solution of 2-(5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (12.4 g) in tetrahydrofuran (100 mL) and ethanol (60 mL) was added 10% (w/w) palladium on carbon (1 g) and the suspension was placed under a hydrogen atmosphere (3.4 bar) and shaken for 12 h. The solution was filtered through diatomaceous earth to give an oil which crystallized from ether to provide 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide as a white solid (8.7 g); MS: m/z=513(M+1).

reactant | 2-(5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 12.4 g | C(C1=CC=CC=C1)OC(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1 | C32H41F3N4O5Si
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 8.7 g | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1 | C24H35F3N4O3Si
